US08735417B2
To a solution of the ethyl 1-[4-(3-nitrophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate (457 mg, 1.26 mmol) in ethyl acetae (10 mL) and acetic acetic acid (1 mL) was added 10% palladium on carbon (135 mg, 0.126 mmol) and the mixture was placed under an atmosphere of H2 (balloon). The mixture was stirred for 3 hours was then filtered through celite. The filtrate was concentrated under reduced pressure. The resulting residue was purified by CombiFlash (20-60% ethyl acetate:hexanes) provided 250 mg (0.754 mmol, 60% yield) of ethyl 1-[4-(3-aminophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate.

reactant | ethyl 1-[4-(3-nitrophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate | 1.26 mmol, 457 mg | [N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N1CCC(CC1)C(=O)OCC | C17H19N3O4S
catalyst | palladium on carbon | 0.126 mmol, 135 mg | [Pd] | Pd
product | ethyl 1-[4-(3-aminophenyl)-1,3-thiazol-2-yl]piperidine-4-carboxylate | 0.754 mmol, 250 mg, 60% yield | NC=1C=C(C=CC1)C=1N=C(SC1)N1CCC(CC1)C(=O)OCC | C17H21N3O2S
